US09446130B2
To a solution of 7-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine (335 mg, 0.978 mmol) in DMF (4.9 mL) was added NBS (226.19 mg, 1.271 mmol) at ice water, the resulting solution was stirred at this temperature for 10 minutes. The reaction was quenched with water, then extracted with EA and the combined organic layer was washed with water, brine and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo to give 7-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine (0.41 g, yield 99%).

reactant | 7-(8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine | 0.978 mmol, 335 mg | ClC=1C=2N(C=CN1)C(=NC2)C2CC=1N(CC2)C(=NN1)C(F)(F)F | C13H10ClF3N6
reactant | NBS | 1.271 mmol, 226.19 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 4.9 mL | CN(C)C=O | C3H7NO
product | 7-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-3-(trifluoromethyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyridine | 0.41 g, yield 99% | BrC=1N=C(N2C1C(=NC=C2)Cl)C2CC=1N(CC2)C(=NN1)C(F)(F)F | C13H9BrClF3N6
